US08304419B2
Step B: 3-bromo-6-hydroxy-1H-indole-2-carboxylic acid
Methyl 3-Bromo-6-(methyloxy)-1H-indole-2-carboxylate (0.075 g, 0.26 mmol) was dissolved in CH2Cl2 (5 mL), cooled to 0° C. under nitrogen and BBr3 (1.0 M in CH2Cl2, 1.6 mL, 1.6 mmol) added dropwise. The reaction mixture was allowed to warm to RT and stirred overnight. Ice cold water (1 mL) and EtOAc (5 mL) were added. The layers were separated and the aqueous layer extracted with EtOAc (3×5 mL). The organic extracts were combined, dried over Na2SO4, filtered and evaporated. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.005 g, 7%) as a solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 13.06 (br. s., 1H), 11.63 (br. s., 1H), 9.55 (s, 1H), 7.30 (d, 1H), 6.78 (d, 1H), 6.70 (dd, 1H). MS: m/z 256.13 (M+1).

reactant | Methyl 3-Bromo-6-(methyloxy)-1H-indole-2-carboxylate | 0.26 mmol, 0.075 g | BrC1=C(NC2=CC(=CC=C12)OC)C(=O)OC | C11H10BrNO3
reactant | BBr3 | 1.6 mmol, 1.0 M, 1.6 mL | B(Br)(Br)Br | BBr3
reactant | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-6-hydroxy-1H-indole-2-carboxylic acid | 0.005 g, 7% | BrC1=C(NC2=CC(=CC=C12)O)C(=O)O | C9H6BrNO3
